US07332499B2
To a solution of 2-bromo-6-fluoroaniline (500 mg, 2.631 mmol) in pyridine (2 ml) was added methanesulfonic anhydride (1.35 g, 7.78 mmol) and the mixture was heated to 70 C for 3 hours. This solution was treated with 1.0N HCl to pH=1 and extracted with CH2Cl2 (2×40 ml). The combined organic extracts were washed with 1.0N HCl (20 ml), dried over MgSO4, filtered and concentrated in vacuo to provide the bis mesylated product. This material was dissolved in methanol (20 ml) and treated with 1.0N NaOH (10 ml) for 45 minutes. After this time, this solution was acidified with 1.0N HCl (12 ml) and partitioned between CH2Cl2 (50+25 ml) and brine (10 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo. This residue was purified by column chromatography eluting with a 0-100% EtOAc/CH2Cl2 gradient to give N-(2-bromo-6-fluorophenyl)-methanesulfonamide. 1HNMR (400 MHz, CDCl3) δ 7.41-7.47 (m, 1H), 7.16 (d, 1H, J=12.5 Hz), 7.14-7.17 (m, 1H), 6.22 (br s, 1H) and 3.27 (s, 3H) ppm.

reactant | 2-bromo-6-fluoroaniline | 2.631 mmol, 500 mg | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
reactant | methanesulfonic anhydride | 7.78 mmol, 1.35 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | HCl | 1.0N | Cl | ClH
reactant | NaOH | 1.0N, 10 ml | [OH-].[Na+]
reactant | HCl | 1.0N, 12 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 20 ml | CO | CH4O
product | N-(2-bromo-6-fluorophenyl)-methanesulfonamide | BrC1=C(C(=CC=C1)F)NS(=O)(=O)C | C7H7BrFNO2S
